US09278983B2
A mixture of 2-(2-ethylsulfanylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (0.25 g), sodium periodate (0.24 g), methanol (6 ml), water (2 ml), and THF (0.8 ml) was stirred at roam temperature for 20 minutes, and then heated to 50° C., and stirred with heating for further 1.5 hours. To the ice-cooled reaction mixture, water was added. The precipitated crystal was collected by filtration. The obtained crystal was dissolved in ethyl acetate, and washed with saturated aqueous sodium thiosulfate solution, saturated aqueous sodium hydrogen carbonate solution, then saturated brine, sequentially. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was washed with hexane to give 0.20 g of 2-(2-ethylsulfinylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 5).

reactant | 2-(2-ethylsulfanylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.25 g | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C16H14F3N3S
reactant | sodium periodate | 0.24 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | methanol | 6 ml | CO | CH4O
solvent | water | O | H2O
solvent | THF | 0.8 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 2-(2-ethylsulfinylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.20 g | C(C)S(=O)C1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C16H14F3N3OS
